US06998492B2
In 40 ml of o-dichlorobenzene as solvent, 3.94 g of carbazole, 7.26 g of 2-iondopyridine, 13.10 g of potassium carbonate, 3 g of copper powder, and 0.62 g of 18-crown-6-ether were mixed and refluxed under a nitrogen atmosphere for 10 hours. Thereafter, copper and inorganic salts were removed, and the mixture was purified by column chromatography. Consequently, ligand Hpcz (9-(2-pyridyl)carbazole) was obtained (opal powder, the yield: 93%). The following is the synthesis scheme (b-1).

reactant | carbazole | 3.94 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | potassium carbonate | 13.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 0.62 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | o-dichlorobenzene | 40 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper | 3 g | [Cu] | Cu
product | 9-(2-pyridyl)carbazole | yield: 93% | N1=C(C=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C17H12N2
